US04084001
Heating dimethyl N-cyanodithioimidocarbonate with an excess of 5-aminopentan-1-ol in pyridine gives N-cyano-N',N"-bis(5-hydroxypentyl)guanidine, which may be treated with p-toluenesulphonyl chloride in pyridine and the product heated with thiourea in acetone to give N-cyano-N',N"-bis(5-(S-isothioureido)pentyl)guanidine.

reactant | dimethyl N-cyanodithioimidocarbonate | C(#N)N=C(SC)SC | C4H6N2S2
reactant | 5-aminopentan-1-ol | NCCCCCO | C5H13NO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | N-cyano-N',N"-bis(5-hydroxypentyl)guanidine | C(#N)NC(=NCCCCCO)NCCCCCO | C12H24N4O2
